US05502202
To a solution of 5.00 g of 4'-bromo-4-chlorobutyrophenone in 3 ml of toluene was added 11.1 ml of di-n-hexylamine and heated under reflux for 3 hours. After diluting with toluene, the reaction mixture was extracted with a 2N aqueous solution of hydrochloric acid. The extract was neutralized with a mass of sodium hydroxide and extracted with methylene chloride. Next, after drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, thereby giving 4.88 g of crude 4'-bromo-di-n-hexylaminobutyrophenone.

reactant | 4'-bromo-4-chlorobutyrophenone | 5.00 g | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
reactant | di-n-hexylamine | 11.1 ml | C(CCCCC)NCCCCCC | C12H27N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-bromo-di-n-hexylaminobutyrophenone | 4.88 g | BrC1=CC=C(C=C1)C(C(CC)N(CCCCCC)CCCCCC)=O | C22H36BrNO
